US07915415B2
Step 2: Synthesis of 5-bromo-imidazo[1,2-f]phenanthridine
To a mixture of 4-bromo-6-aminophenanthridine (19.11 g, 69.91 mmole), sodium bicarbonate (12.3 g, 146 mmole) in 2-propanol (200 ml) was added chloroacetaldehyde (50% aqueous soln. 17.35 g). After the reaction mixture was heated at 75° C. for 5 hrs., the solvent was removed. The residue was redissolved in methylene chloride and washed with water. The organic fractions were combined, dried over sodium sulfate, filtered, and concentrated in vacuo. The crude mixture was purified by chromagraphy on silica gel using hexane/ethyl acetate (80/20) to obtain the title compound (13 g, 62%).

reactant | 4-bromo-6-aminophenanthridine | 69.91 mmole, 19.11 g | BrC1=CC=CC2=C3C=CC=CC3=C(N=C12)N | C13H9BrN2
reactant | sodium bicarbonate | 146 mmole, 12.3 g | C([O-])(O)=O.[Na+]
reactant | chloroacetaldehyde | 17.35 g | ClCC=O | C2H3ClO
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
product | 5-bromo-imidazo[1,2-f]phenanthridine | 13 g, 62% | BrC1=CC=CC=2C=3C=CC=CC3C=3N(C12)C=CN3 | C15H9BrN2
